US08029919B2
10-Methyl-3,7-bis(1-naphthyl)phenothiazine 5,5-dioxide
For the preparation as a by-product in the synthesis of 10-methyl-3,7-bis(1-naphthyl)phenothiazine 5-oxide, see under Example 5. For a selective preparation of the sulfone, at least two molar equivalents of m-chloroperbenzoic acid are used.

reactant | 10-methyl-3,7-bis(1-naphthyl)phenothiazine 5-oxide | CN1C2=CC=C(C=C2S(C=2C=C(C=CC12)C1=CC=CC2=CC=CC=C12)=O)C1=CC=CC2=CC=CC=C12 | C33H23NOS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | 10-Methyl-3,7-bis(1-naphthyl)phenothiazine 5,5-dioxide | CN1C2=CC=C(C=C2S(C=2C=C(C=CC12)C1=CC=CC2=CC=CC=C12)(=O)=O)C1=CC=CC2=CC=CC=C12 | C33H23NO2S
